US06498163B1
To a suspension of NaH (49 mg of a 60% suspension of NaH in mineral oil) in 6 mL of dimethylformamide was added 2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one (200 mg, 0.84 mmol). The reaction mixture was heated to 50° C. resulting in a yellow solution. The solution was cooled slightly, and 2-bromoethylmethyl ether (140 μL, 1.49 mmol) was added. The reaction mixture was heated at 50° C. for 10 minutes, then cooled to room temperature and partitioned between water and ethyl acetate. The organic layer was dried over magnesium sulfate, filtered, and concentrated in vacuo. Purification by flash chromatography eluting with a gradient of 2:1 hexane:ethyl acetate to all ethyl acetate gave 140 mg (56%) of 8-(2-methoxyethyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one, mp 179-180° C.

reactant | NaH | [H-].[Na+]
reactant | 2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 0.84 mmol, 200 mg | C1(=CC=CC=C1)NC=1N=CC2=C(N1)NC(C=C2)=O | C13H10N4O
reactant | 2-bromoethylmethyl ether | 1.49 mmol, 140 μL | BrCCOC | C3H7BrO
solvent | dimethylformamide | 6 mL | CN(C=O)C | C3H7NO
product | 8-(2-methoxyethyl)-2-phenylamino-8H-pyrido[2,3-d]pyrimidin-7-one | 140 mg, 56% | COCCN1C(C=CC2=C1N=C(N=C2)NC2=CC=CC=C2)=O | C16H16N4O2
